US06858633B1
5-Fluoro-2-(4′-amino-3′-(hydroxymethyl)phenyl)benzothiazole (Iaq)
5-Fluoro-2-(4′-amino-3′-cyanophenyl)benzothiazole (1 g, 3.75 mmol) was dissolved in 80% sulfuric acid (50 ml) and heated at 100° C. for 2 hrs. After cooling, the reaction mixture was diluted with water (100 ml) and the pH adjusted to 7.5 using 50% sodium hydroxide. The product was extracted with ethyl acetate(3×50 ml), the extracts dried (Na2SO4) and evaporated to leave a yellow solid which was taken up in THF (20 ml) and added dropwise to a solution of LiAlH4 (0.7 g, 0.019 mol) in THF (15 ml). After stirring at 25° C. for 2 hrs, water (20 ml) was added and the product extracted with ethyl acetate (3×50 ml). The organic extracts were washed with brine (10 ml), dried (Na2SO4) and evaporated. The residue was purified by column chromatography (10% ethyl acetate/dichloromethane) to leave a yellow powder.

reactant | 5-Fluoro-2-(4′-amino-3′-cyanophenyl)benzothiazole | 3.75 mmol, 1 g | FC=1C=CC2=C(N=C(S2)C2=CC(=C(C=C2)N)C#N)C1 | C14H8FN3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | LiAlH4 | 0.019 mol, 0.7 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 5-Fluoro-2-(4′-amino-3′-(hydroxymethyl)phenyl)benzothiazole | FC=1C=CC2=C(N=C(S2)C2=CC(=C(C=C2)N)CO)C1 | C14H11FN2OS
